US07294644B2
(S)-5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid sec-butylamide
The title compound was synthesized in analogy to example 203, from 5-(3,5-bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester and (S)-sec-butylamine as R1R2NH, MS (ISP) 503.4 (M+H)+.

reactant | 5-(3,5-bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester | COC(=O)C1=C(N(C(=C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1CCCCC1)C | C23H25F6NO2
reactant | (S)-sec-butylamine | [C@H](C)(CC)N | C4H11N
product | (S)-5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid sec-butylamide | [C@H](C)(CC)NC(=O)C1=C(N(C(=C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1CCCCC1)C | C26H32F6N2O
